US05354874
The procedure described in Example 9 was repeated except that 6,10-dimethyl-11-acetoxy-5,9-undecadien-2-on or 6,10-dimethyl-11-(benzoyl)oxy-5,9-undecadien-2-one was employed as a starting material to give 3,7,11-trimethyl-12-acetoxy-6,10-dodecadien-1-in-3-ol and 3,7,11-trimethyl-12-(benzoyl)oxy-6,10-dodecadien-l-in-3-ol.

reactant | 6,10-dimethyl-11-acetoxy-5,9-undecadien-2-on | CC(=CCCC(C)=O)CCC=C(COC(C)=O)C | C15H24O3
reactant | 6,10-dimethyl-11-(benzoyl)oxy-5,9-undecadien-2-one | CC(=CCCC(C)=O)CCC=C(COC(C1=CC=CC=C1)=O)C | C20H26O3
product | 3,7,11-trimethyl-12-acetoxy-6,10-dodecadien-1-in-3-ol | CC(C#C)(CCC=C(CCC=C(COC(C)=O)C)C)O | C17H26O3
